US07655630B2
Oral Bioavailability of L-lysine-d-amphetamine Dimesylate at Various Doses Approximating a Range of Therapeutic Human Doses Compared to a Suprapharmacological Dose
Male Sprague-Dawley rats were provided water ad libitum, fasted overnight, and dosed by oral gavage with 1.5, 3, 6, 12, and 60 mg/kg of amphetamine sulfate or L-lysine-d-amphetamine containing the equivalent amounts of d-amphetamine. Concentrations of d-amphetamine were measured by ELISA.

reactant | amphetamine sulfate | S(=O)(=O)(O)O.NC(C)CC1=CC=CC=C1
reactant | L-lysine d-amphetamine | N[C@@H](CCCCN)C(=O)O.C[C@@H](CC=1C=CC=CC1)N
reactant | d-amphetamine | C[C@@H](CC=1C=CC=CC1)N | C9H13N
solvent | water | O | H2O
product | L-lysine-d-amphetamine Dimesylate | C[C@@H](CC1=CC=CC=C1)NC(=O)[C@H](CCCCN)N.CS(=O)(=O)O.CS(=O)(=O)O | InChI=1S/C15H25N3O.2CH4O3S/c1-12(11-13-7-3-2-4-8-13)18-15(19)14(17)9-5-6-10-16;2*1-5(2,3)4/h2-4,7-8,12,14H,5-6,9-11,16-17H2,1H3,(H,18,19);2*1H3,(H,2,3,4)/t12-,14-;;/m0../s1
